US08669271B2
4-(5-Chloro-furo[3,2-b]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester
To a solution of 6-chloro-2-iodo-pyridin-3-ol (1.00 g) in N,N-dimethylformamide (10 mL) copper (I) iodide (120 mg), Pd(PPh3)2Cl2 (140 mg), and triethylamine (550 μL) are added. The mixture is stirred at room temperature for 1 h. A solution of 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester (860 mg) in N,N-dimethylformamide (3 mL) is added and the resulting mixture is stirred at 70° C. over night. After cooling to room temperature the mixture is concentrated and chromatographed on silica gel (ethyl acetate/cyclohexane 25:75) to give the title compound. Yield: 241 mg (18% of theory); LC (method 2): tR=1.41 min; Mass spectrum (ESI+): m/z=337 [M+H]+.

reactant | 6-chloro-2-iodo-pyridin-3-ol | 1.00 g | ClC1=CC=C(C(=N1)I)O | C5H3ClINO
reactant | triethylamine | 550 μL | C(C)N(CC)CC | C6H15N
reactant | 4-ethynyl-piperidine-1-carboxylic acid tert-butyl ester | 860 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C#C | C12H19NO2
solvent | N,N-dimethylformamide | 10 mL, 120 mg | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | Pd(PPh3)2Cl2 | 140 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(5-Chloro-furo[3,2-b]pyridin-2-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=CC2=NC(=CC=C2O1)Cl | C17H21ClN2O3
